US06645932B2
To a mixture of 20 g 1,3,3-trimethylindene (see e.g. J. Am. Chem. Soc. 76, 5430 (1954) ) 13 g acetyl chloride and 55 ml 1,2-dichloroethane in a nitrogen atmosphere was dosed with stirring 21.5 g aluminum trichloride over a period of one and a half hour and at a temperature of 20-25° C. After an additional stirring period of 30 minutes at 20° C. the mixture was poured on ice and stirred for another hour. The organic layer was washed with subsequently 5%-sodium carbonate solution, saturated sodium chloride solution and concentrated by means of a rotatory evaporator. Vacuum distillation of the residue yielded a 15.3 g of a fraction boiling up to 145° C. at 3 mm Hg. Recrystallization from methanol yielded 10 g 2-acetyl-1,3,3-trimethylindene of 99.8% purity, mp 104.5-105.0° C.

reactant | 1,3,3-trimethylindene | 20 g | CC1=CC(C2=CC=CC=C12)(C)C | C12H14
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | aluminum trichloride | 21.5 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | 1,2-dichloroethane | 55 ml | ClCCCl | C2H4Cl2
product | 2-acetyl-1,3,3-trimethylindene | 10 g | C(C)(=O)C1=C(C2=CC=CC=C2C1(C)C)C | C14H16O
